US08604019B2
N-{[3-(Aminomethyl)oxetan-3-yl]methyl}-6-methyl-2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)thieno[3,2-d]pyrimidin-4-amine
The title compound was prepared in analogy to Example 3-1 in Scheme 3 by using 2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylthieno[3,2-d]pyrimidin-4(3H)-one and 3,3-oxetanedimethanamine. MS obsd. (ESI+) [(M+H)+] 444, 1H NMR (400 MHz, METHANOL-d4) δ ppm 7.74 (t, J=8.7 Hz, 2H), 7.43-7.51 (m, 2H), 6.83 (s, 1H), 5.21 (d, J=15.2 Hz, 1H), 4.68-4.75 (m, 1H), 4.64 (d, J=6.6 Hz, 2H), 4.50 (t, J=6.2 Hz, 2H), 4.01 (br. s., 2H), 3.09 (s, 2H), 2.56 (s, 3H), 2.06 (s, 4H).

reactant | 2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylthieno[3,2-d]pyrimidin-4(3H)-one | O=S1CCN(CC2=C1C=CC=C2)C=2NC(C1=C(N2)C=C(S1)C)=O | C16H15N3O2S2
reactant | 3,3-oxetanedimethanamine | O1CC(C1)(CN)CN | C5H12N2O
product | N-{[3-(Aminomethyl)oxetan-3-yl]methyl}-6-methyl-2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)thieno[3,2-d]pyrimidin-4-amine | NCC1(COC1)CNC=1C2=C(N=C(N1)N1CCS(C3=C(C1)C=CC=C3)=O)C=C(S2)C | C21H25N5O2S2
